US04681873
4-Amino-2,3,5,6-tetrafluoropyridine
A mixture of 20.0 g (118 mmol) of pentafluoropyridine (Aldrich Chemical Company, Milwaukee, Wis., USA) and 40 ml of concentrated aqueous ammonia was heated on a steam bath for two hours in a sealed stainles steel reaction vessel. The vessel and contents were cooled to room temperature and the resulting suspension suspension was partitioned between water and diethyl ether.

reactant | pentafluoropyridine | 118 mmol, 20.0 g | FC1=C(C(=C(C(=N1)F)F)F)F | C5F5N
reactant | ammonia | 40 ml | N | H3N
product | 4-Amino-2,3,5,6-tetrafluoropyridine | NC1=C(C(=NC(=C1F)F)F)F | C5H2F4N2
